US04587235
9.0 g of 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-one is stirred in 90 ml of tetrahydrofuran with 10 g of lithium tri-tert-butoxy-alanate for 2.5 hours at room temperature. The reaction solution is diluted with diethyl ether, washed with 2N sulfuric acid and water, dried, and evaporated, yielding as a residue 9.0 g of 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-ol.

reactant | 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-one | 9.0 g | C1[C@H]2[C@@H]1C(C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21C)OC2OCCCC2)=O | C25H38O3
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1α,2α-methylene-17β-(tetrahydropyran-2-yloxy)-5α-androstan-3-ol | 9.0 g | C1[C@H]2[C@@H]1C(C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@@]21C)OC2OCCCC2)O | C25H40O3
